US05214191
To a flask containing 2-phenylbutyric acid (4.93 g, 30 mmol) in 40 mL of CH2Cl2 at 0° C. was added dicyclohexylcarbodiimide (6.19 g, 30 mmol) in 30 mL of CH2Cl2. Solid 4-methylmercaptophenol (4.21 g, 30 mmol) was added and the suspension stirred at room temperature overnight. The precipitated urea was filtered, the filtrate evaporated and the residue chromatographed on silica gel (CH2Cl2)to give 4-(methylmercapto)phenyl 2-phenylbutyrate (6.23 g, 73%) as a light yellow oil which was crystallized from EtOH to give white crystals (mp 28.0°-28.5° C.). 1H NMR (CDCl3) δ0.98 (t, 3H, J=7.3 Hz), 1.89 (m, 1H), 2.22 (m, 1H), 3.68 (t, 1H, J=7.6 Hz), 6.92 (d, 2H, J=8.6 Hz), 7.22 (d, 2H, J= 8.6 Hz), 7.30-7.45 (m, 5H, ArH).

reactant | 2-phenylbutyric acid | 30 mmol, 4.93 g | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | dicyclohexylcarbodiimide | 30 mmol, 6.19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-methylmercaptophenol | 30 mmol, 4.21 g | CSC1=CC=C(C=C1)O | C7H8OS
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(methylmercapto)phenyl 2-phenylbutyrate | 6.23 g, 73% | C1(=CC=CC=C1)C(C(=O)OC1=CC=C(C=C1)SC)CC | C17H18O2S
